US06444685B1
2-(2-Butynyl)-2-[(4-{4-[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]phenyl}ethyl)amino]-1-piperidinyl}phenyl)sulfonyl]-4-hexynoicacid
To a solution of 2-(2-butynyl)-2-[(4-{4-[((2R)-2-hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)amino)-phenyl)ethyl)amino]-1-piperidinyl}phenyl)sulfonyl]-4-hexynoicacid tert-butyl ester 0.21 g (0.3 mmol) in dichloromethane (3 ml) was added trifluoroacetic acid (0.23 ml, 3 mmol), and the mixture was stirred at room temperature for 2 days. It was then evaporated and treated with 10% sodium bicarbonate solution until pH 6. The resulting suspension was filtered and the precipitate washed with water, and dried in vacuo to give 85 mg of a beige solid; m.p. 175-177° C.; MS (ES) m/z 630.6 (M−H−); HRMS (EI) Calcd. for C30H36N3O8S2 (M−H−): 630.1949, Found: 630.1943.

reactant | 2-(2-butynyl)-2-[(4-{4-[((2R)-2-hydroxy-2-[4-hydroxy-3-[(methylsulfonyl)amino)-phenyl)ethyl)amino]-1-piperidinyl}phenyl)sulfonyl]-4-hexynoicacid tert-butyl ester | 0.3 mmol, 0.21 g | C(C)(C)(C)OC(C(CC#CC)(S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O)CC#CC)=O | C34H45N3O8S2
reactant | trifluoroacetic acid | 3 mmol, 0.23 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 2-(2-Butynyl)-2-[(4-{4-[((2R)-2-hydroxy-2-{4-hydroxy-3-[(methylsulfonyl)amino]phenyl}ethyl)amino]-1-piperidinyl}phenyl)sulfonyl]-4-hexynoicacid | 85 mg | C(C#CC)C(C(=O)O)(CC#CC)S(=O)(=O)C1=CC=C(C=C1)N1CCC(CC1)NC[C@@H](C1=CC(=C(C=C1)O)NS(=O)(=O)C)O | C30H37N3O8S2
